data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_654772_1,[C:1]([N:5]([H:11])[H:12])([N:6]([H:10])[H:13])([O:7][H:9])[N:8]=[C:4]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18]>>[C:1](\[N:6]([H:10])[H:13])([O:7][H:9])=[N:8]/[C:4]([C:2]([H:14])([H:15])[H:19])([C:3]([H:16])([H:17])[H:18])[N:5]([H:11])[H:12],47.918410000007725
MR_481658_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3](/[C:4](=[N:6]\[H:10])[H:11])=[O:7])([O:5][H:8])[H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]1([H:11])[C:3](=[O:7])[N:6]1[H:10])([O:5][H:8])[H:9],65.29576749997162
MR_525027_0,[C:1]([N:2]1[C:4](=[C:7]([H:16])[H:17])[O:8][C:3]([O:9][H:10])=[C:5]1[N:6]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:2]=[C:5](/[C@:3]1([O:9][H:10])[C:4](=[C:7]([H:16])[H:17])[O:8]1)[N:6]([H:11])[H:12])([H:13])([H:14])[H:15],68.03417749997763
MR_232568_0,[C:1]1(/[C:5]([C:4]([H:17])([H:18])[H:19])=[N:8]/[N:7]([H:11])[H:12])([N:6]([H:9])[H:10])[C:2]([H:13])([H:14])[C:3]1([H:15])[H:16]>>[C:1]1([N:6]([H:9])[H:10])=[C:5]([C:4]([H:17])([H:18])[H:19])[N:8]([N:7]([H:11])[H:12])[C:3]([H:15])([H:16])[C:2]1([H:13])[H:14],43.921235000040895
MR_566143_0,[C:1]([C:4]([H:19])([H:20])[H:21])(/[C:6]([C:3]([H:16])([H:17])[H:18])=[C:5](/[C:2]([H:13])([H:14])[H:15])[O:8][H:10])([C:7](=[O:9])[H:12])[H:11]>>[C:1](\[C:4]([H:19])([H:20])[H:21])(=[C:6](/[C:3]([H:16])([H:17])[H:18])[C:5]([C:2]([H:13])([H:14])[H:15])([C:7](=[O:9])[H:12])[O:8][H:10])[H:11],53.62364000001378
MR_122285_2,[C:1](\[C:2]([C:3]([H:9])([H:13])[H:14])([H:11])[H:12])(=[C:7](/[C:5]([H:18])([H:19])[H:20])[C:6]([C:4]([H:15])([H:16])[H:17])=[O:8])[H:10]>>[C:1]1(/[C:7]([C:5]([H:18])([H:19])[H:20])=[C:6](/[C:4]([H:15])([H:16])[H:17])[O:8][H:9])([H:10])[C:2]([H:11])([H:12])[C:3]1([H:13])[H:14],63.180464999997525
MR_609335_1,[C:1](/[C:4]([N:7]([H:12])[H:13])=[N:9]\[C:3](=[C:5](/[C:2]([H:19])([H:20])[H:21])[N:8]([H:14])[H:15])[N:6]([H:10])[H:11])([H:16])([H:17])[H:18]>>[C:1]([C:4]1([N:7]([H:12])[H:13])[C:5]([C:2]([H:19])([H:20])[H:21])([N:8]([H:14])[H:15])[C:3]([N:6]([H:10])[H:11])=[N:9]1)([H:16])([H:17])[H:18],28.63031499998129
MR_295645_0,[C:1](/[C:2]([O:5][C:4](=[O:7])[H:10])=[N:6]/[N:3]([H:8])[H:9])([H:11])([H:12])[H:13]>>[C:1]([C:2](=[O:5])[N:6]([N:3]([H:8])[H:9])[C:4](=[O:7])[H:10])([H:11])([H:12])[H:13],45.11473999998813
MR_165455_2,[C:1]1([H:7])([H:8])/[C:4](=[N:6]\[C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[O:5]1>>[C:1]([C:4](=[O:5])/[N:6]=[C:2](\[C:3]([H:11])([H:12])[H:13])[H:9])([H:7])([H:8])[H:10],34.213810000009346
MR_187604_0,[C:1]([C:2]([H:11])([H:12])[H:13])([O:4][C:3]([O:5][H:8])=[O:7])([O:6][H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([O:6][H:9])([O:7][C:3](=[O:4])[O:5][H:8])[H:10],42.17364749999447
MR_560965_0,[C:1](/[C:4]([N:6]([H:11])[H:12])=[N:8]\[O:7][H:10])(/[C:5]([C:3]([H:18])([H:19])[H:20])=[N:9]/[C:2]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:1](=[C:5]([C:3]([H:18])([H:19])[H:20])[N:9]([C:2]([H:15])([H:16])[H:17])/[C:4]([N:6]([H:11])[H:12])=[N:8]/[O:7][H:10])([H:13])[H:14],67.44809249999491
MR_521953_0,[C:1]([C:2]([N:7]([H:12])[H:13])([H:14])[H:15])([C:4]([H:19])([H:20])[H:21])([N:5]([C:3]([H:16])([H:17])[H:18])[O:8][H:9])[N:6]([H:10])[H:11]>>[C:1]([C:4]([H:19])([H:20])[H:21])([N:5]([C:2]([N:7]([H:12])[H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([N:6]([H:10])[H:11])[O:8][H:9],53.05512500002237
MR_243272_0,[C:1]([C:3]([O:4][N:2]([O:5][H:7])[H:8])=[O:6])([H:9])([H:10])[H:11]>>[C:1]([C:3](=[O:4])[O:6][N:2]([O:5][H:7])[H:8])([H:9])([H:10])[H:11],34.35123249998341
MR_557814_0,[C:1]([N:2](/[C:3]([O:5][H:8])=[N:6]\[H:9])[O:4][H:7])([H:10])([H:11])[H:12]>>[C:1]([N:2]1[C:3]([O:4][H:7])([O:5][H:8])[N:6]1[H:9])([H:10])([H:11])[H:12],65.74003749999136
MR_662472_0,[C:1]([N:4]([C:2]([H:15])([H:16])[H:19])[C:3]([H:17])([H:18])[H:20])([C:5](/[C:7](=[N:8]/[H:13])[H:14])=[O:9])([N:6]([H:11])[H:12])[H:10]>>[C:1](\[C:5]([N:4]([C:2]([H:15])([H:16])[H:19])[C:3]([H:17])([H:18])[H:20])(/[C:7](=[N:8]/[H:13])[H:14])[O:9][H:11])(=[N:6]/[H:12])[H:10],31.633529999960786
MR_311733_2,[C:1]1([O:8][H:10])([H:12])[C:6]([C:2]([C:3]([H:16])([H:18])[H:19])([C:4]([H:17])([H:20])[H:21])[H:13])([N:5]([N:7]([H:14])[H:15])[H:11])[O:9]1>>[C:1]([C:2]([C:3]([H:16])([H:18])[H:19])([C:4]([H:17])([H:20])[H:21])[H:13])([C:6]([N:5]([N:7]([H:14])[H:15])[H:11])=[O:9])([O:8][H:10])[H:12],28.660435000012257
MR_410289_0,[C:1](/[C:4]([N:2](/[C:3]([N:5]([H:10])[H:11])=[N:7]/[H:12])[O:6][H:9])=[N:8]\[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:4]([N:7](/[C:3](=[N:2]/[O:6][H:9])[N:5]([H:10])[H:11])[H:12])=[N:8]\[H:13])([H:14])([H:15])[H:16],43.90366499997825
MR_600477_2,[C:1]([C:2]([H:12])([H:13])[H:14])([N:3]([H:9])[H:10])([C:4](=[C:5]([H:15])[H:16])[O:6][O:7][H:8])[H:11]>>[C@:1]1([C:2]([H:12])([H:13])[H:14])([N:3]([H:9])[H:10])[C@@:4]([O:6][O:7][H:8])([H:11])[C:5]1([H:15])[H:16],60.43515250000894
MR_702254_0,[C:1]([C:3]([O:5][N:2]([C:4](=[O:8])[H:10])[O:6][H:9])=[O:7])([H:11])([H:12])[H:13]>>[C:1]([C:3]([N:2]([O:5][C:4](=[O:8])[H:10])[O:6][H:9])=[O:7])([H:11])([H:12])[H:13],41.6063874999999
